.title kicad schematic

.include PNP.lib
.include NPN.lib
.include PJF.lib
.include D.lib
* u1 net-_j6-pad1_ net-_j4-pad2_ net-_j1-pad2_ net-_c1-pad2_ net-_j5-pad1_ net-_d5-pad1_ net-_d5-pad1_ unconnected-_u1-pad8_ port
d6 net-_c2-pad1_ net-_c2-pad1_ 1N4148
q17 net-_c2-pad1_ net-_c2-pad1_ net-_d5-pad1_ Q2N2222
r8 net-_c2-pad1_ net-_d5-pad1_ 25
q13 net-_d5-pad1_ net-_d3-pad1_ net-_c2-pad1_ Q2N2222
j10 net-_c2-pad1_ net-_d3-pad2_ net-_j10-pad3_ J2N3820
q10 net-_d2-pad1_ net-_d2-pad1_ net-_d5-pad1_ Q2N2907A
j8 net-_d2-pad1_ net-_d2-pad1_ net-_d1-pad1_ J2N3820
q8 net-_c1-pad2_ net-_c2-pad1_ net-_c2-pad2_ Q2N2222
q11 net-_d5-pad1_ net-_c2-pad1_ net-_d3-pad1_ Q2N2907A
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
d1 net-_d1-pad1_ net-_c1-pad2_ 1N4148
d2 net-_d2-pad1_ net-_c1-pad2_ 1N4148
q3 net-_d5-pad1_ net-_q2-pad3_ net-_q3-pad3_ Q2N2222
q2 net-_d5-pad1_ net-_c1-pad1_ net-_q2-pad3_ Q2N2222
r4 net-_q1-pad2_ net-_q6-pad3_ 30
r3 net-_q3-pad3_ net-_q1-pad2_ 30
q6 net-_c2-pad1_ net-_q6-pad2_ net-_q6-pad3_ Q2N2222
q9 net-_d5-pad1_ net-_c2-pad2_ net-_q6-pad2_ Q2N2222
j5 net-_j5-pad1_ net-_d5-pad1_ net-_c2-pad2_ J2N3820
j6 net-_j6-pad1_ net-_d5-pad1_ net-_c1-pad1_ J2N3820
j7 net-_j7-pad1_ net-_d2-pad1_ net-_c2-pad1_ J2N3820
q5 net-_c1-pad1_ net-_d2-pad1_ net-_d5-pad1_ Q2N2907A
c2 net-_c2-pad1_ net-_c2-pad2_ 10p
q7 net-_j7-pad1_ net-_d2-pad1_ net-_d5-pad1_ Q2N2907A
c1 net-_c1-pad1_ net-_c1-pad2_ 10p
j1 net-_c1-pad1_ net-_j1-pad2_ net-_c2-pad2_ J2N3820
j2 net-_c2-pad2_ net-_c2-pad2_ net-_c1-pad2_ J2N3820
j3 net-_c1-pad1_ net-_c1-pad1_ net-_c1-pad2_ J2N3820
j4 net-_c1-pad1_ net-_j4-pad2_ net-_c1-pad1_ J2N3820
q1 net-_c1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r1 net-_c1-pad2_ net-_q1-pad3_ 1k
q4 net-_q1-pad2_ net-_d1-pad1_ net-_c1-pad2_ Q2N2222
r5 net-_c1-pad2_ net-_q6-pad2_ 5k
r2 net-_c1-pad2_ net-_q2-pad3_ 5k
r7 net-_c1-pad2_ net-_q16-pad3_ 50
q16 net-_c2-pad1_ net-_q15-pad3_ net-_q16-pad3_ Q2N2222
d4 net-_d4-pad1_ net-_c1-pad2_ 1N4148
q12 net-_d3-pad2_ net-_d2-pad1_ net-_c1-pad2_ Q2N2907A
q15 net-_d5-pad1_ net-_j10-pad3_ net-_q15-pad3_ Q2N2222
d5 net-_d5-pad1_ net-_d3-pad2_ 1N4148
r6 net-_c1-pad2_ net-_q15-pad3_ 3k
q14 net-_j10-pad3_ net-_c1-pad2_ net-_c1-pad2_ Q2N2222
j9 net-_d3-pad2_ net-_d3-pad2_ net-_d4-pad1_ J2N3820
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
